US07868001B2
A mixture of 2,2,2-trifluoro-N-methyl-N-(2-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)imidazo[1,2-b]pyridazin-6-yl)acetamide(0. 15 mmol) and K2CO3 (0.3 mmol)in 20 mL methanol -water(4:1) was heated at 60° C. for 1 h. The mixture was concentrated in vacuo and the crude product was purified by column chromatography on silica gel to give the N-methyl-2-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)imidazo[1,2-b]pyridazin-6-amine.

reactant | 2,2,2-trifluoro-N-methyl-N-(2-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)imidazo[1,2-b]pyridazin-6-yl)acetamide | 15 mmol | FC(C(=O)N(C=1C=CC=2N(N1)C=C(N2)C2=CC(=CC=C2)C2=NOC(=N2)C(F)(F)F)C)(F)F | C18H10F6N6O2
reactant | K2CO3 | 0.3 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol water | 20 mL | CO.O
product | N-methyl-2-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)imidazo[1,2-b]pyridazin-6-amine | CNC=1C=CC=2N(N1)C=C(N2)C2=CC(=CC=C2)C2=NOC(=N2)C(F)(F)F | C16H11F3N6O
